US04208202
(c) N-(3-Amino-4,6-dichlorophenyl)-γ-chlorobutyramide
14.1 g (0.10 mol) of γ-chlorobutyryl chloride in 50 ml of chloroform are added dropwise in the course of 1 hour, at 10°-15° C., to a solution of 17.7 g (0.10 mol) of 1,3-diamino-4,6-dichlorobenzene and 8.7 g (0.11 mol) of pyridine in 500 ml of chloroform. The mixture is then stirred for 2 hours at room temperature, the solution is washed with water and filtered through 40 g of silica gel and the filtrate is concentrated. The resulting product is recrystallised from hexane/toluene. Yield: 13.5 g; melting point 125°-128° C.

reactant | γ-chlorobutyryl chloride | 0.10 mol, 14.1 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 1,3-diamino-4,6-dichlorobenzene | 0.10 mol, 17.7 g | NC1=CC(=C(C=C1Cl)Cl)N | C6H6Cl2N2
reactant | pyridine | 0.11 mol, 8.7 g | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(3-Amino-4,6-dichlorophenyl)-γ-chlorobutyramide | NC=1C=C(C(=CC1Cl)Cl)NC(CCCCl)=O | C10H11Cl3N2O
